US08492559B2
Stage 2: tert-Butyl-3-(tert-butyldimethylsilyloxy)propylcarbamate
11.6 g (1.3 eq.) imidazole were added to a solution of 23 g (1 eq.) tert-butyl 3-hydroxypropylcarbamate in 230 ml dichloromethane. The reaction solution was stirred for 10 min at room temperature and then cooled to 0° C. 21.79 g (1.1 eq.) TBDMSCl were added to this solution at 0° C. and on completion of the addition the mixture was stirred for 1 h at room temperature. The reaction course was monitored by thin-layer chromatography (30% EtOAc/hexane). Once the conversion was complete, the reaction mixture was filtered over celite and the filtrate mixed with 200 ml water and extracted with dichloromethane. The combined organic phases were dried over Na2SO4. Following removal of the solvent under reduced pressure, 32 g (84%) of product were obtained in the form of an oil.

reactant | imidazole | 11.6 g, 1.3 eq. | N1C=NC=C1 | C3H4N2
reactant | tert-butyl 3-hydroxypropylcarbamate | 23 g, 1 eq. | OCCCNC(OC(C)(C)C)=O | C8H17NO3
reactant | TBDMSCl | 21.79 g, 1.1 eq. | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | dichloromethane | 230 ml | ClCCl | CH2Cl2
product | tert-Butyl-3-(tert-butyldimethylsilyloxy)propylcarbamate | 32 g, 84% | C(C)(C)(C)OC(NCCCO[Si](C)(C)C(C)(C)C)=O | C14H31NO3Si
